US09403798B2
5-(Chloromethyl)-3-(trifluoromethyl)-1H-pyrazole
To a tetrahydrofuran solution (4 mL) of ethyl 3-(trifluoromethyl)-1H-pyrazol-5-carboxylate (104 mg, 0.50 mmol), diisobutylaluminum hydride (1.75 mL, 1.75 mmol, toluene solution) was added at 0° C. and the resultant solution was stirred for 2 hours. To the reaction solution, saturated sodium sulfate aqueous solution was added and the resultant mixture was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Subsequently, to a dichloromethane solution of the obtained residue (28 mg), thionyl chloride (39.4 mg, 0.33 mmol) was added and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain a crude product of the title compound. The crude product was used in the next reaction as it was.

reactant | ethyl 3-(trifluoromethyl)-1H-pyrazol-5-carboxylate | 0.50 mmol, 104 mg | FC(C1=NNC(=C1)C(=O)OCC)(F)F | C7H7F3N2O2
reactant | diisobutylaluminum hydride | 1.75 mmol, 1.75 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | thionyl chloride | 0.33 mmol, 39.4 mg | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 5-(Chloromethyl)-3-(trifluoromethyl)-1H-pyrazole | ClCC1=CC(=NN1)C(F)(F)F | C5H4ClF3N2
